US03965101
E. 6H-Pyrimido[1,2-c] [1,3,5]benzoxadiazepine
A mixture of 9.5 g of 2-amino-1-[(o-bromophenoxy)-methyl]pyrimidinium chloride, 8.3 g of potassium carbonate, and 0.4 g of copper-bronze in 150 ml of n-propanol, under N2, is heated under reflux for about 7 days while stirring. The mixture is filtered hot and the deep yellow filtrate is concentrated to dryness. The residue is dissolved in 400 ml of ether, the ether solution is washed, dried and the solvent removed to give about 6.4 g of the crude yellow product. This is recrystallized from cyclohexane to give about 3.6 g of the title product.

reactant | 2-amino-1-[(o-bromophenoxy)-methyl]pyrimidinium chloride | 9.5 g | [Cl-].NC1=[N+](C=CC=N1)COC1=C(C=CC=C1)Br
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-propanol | 150 ml | C(CC)O | C3H8O
product | 6H-Pyrimido[1,2-c] [1,3,5]benzoxadiazepine | about 3.6 g | N1=CC=CN2COC3=C(N=C21)C=CC=C3 | C11H9N3O
